US04594601
Into 150 ml of ethanol, 30.6 g of 2,4-dimethoxyaniline and 21.2 g of benzaldehyde were dissolved, and 2 g of acetic acid was added. The mixture was reacted at a temperature of from 50° to 60° C. for 4 hours. The reaction solution was poured into 500 ml of water and extracted with 300 ml of toluene. The toluene solution was separated by liquid separation, then washed with water and concentrated to dryness. The oily product thereby obtained was dissolved into 150 ml of ethanol, and 11.3 g of sodium boro-hydride was added in 2 hours at a temperature of from 30° to 40° C. and reacted therewith. Further, the mixture was stirred for one hour at a temperature of 40° C. The reaction mixture was poured into 1 liter of water and extracted with 500 ml of toluene. The toluene layer was washed with water, concentrated and purified by distillation under reduced pressure, whereby 40.9 g of N-benzyl-2,4-dimethoxyaniline was obtained. The product was a liquid having a boiling point of from 166° to 168° C./2 mmHg.

reactant | 2,4-dimethoxyaniline | 30.6 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | benzaldehyde | 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium boro-hydride | 11.3 g | [BH4-].[Na+]
solvent | water | 1 liter | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
solvent | acetic acid | 2 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-benzyl-2,4-dimethoxyaniline | 40.9 g | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)OC)OC | C15H17NO2
